US06630600B1
3-(4-Benzyloxyphenyl)-2-ethylsulfanyl propanoic acid methyl ester (0,37 g; 1.12 mmole) was dissolved in dichloromethane (3.5 ml). Dimethylsulfide (3 ml), was added followed by addition of boron trifluoride etherate (1.6 g; 11 mmole), The reaction mixture was stirred for 3 hours at room temperature and then quenched with water (3 ml). More dichloromethane was added and the phases were separated. The organic phase was washed twice with brine and dried with sodium sulfate. Evaporation of the solvent gave 0.2 g (74.3% yield) of ethylsulfanyl-3-(4-hydroxyphenyl)propanoic acid methyl ester.

reactant | 3-(4-Benzyloxyphenyl)-2-ethylsulfanyl propanoic acid methyl ester | 1.12 mmole, 0,37 g | COC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)SCC)=O | C19H22O3S
reactant | Dimethylsulfide | 3 ml | CSC | C2H6S
reactant | boron trifluoride etherate | 11 mmole, 1.6 g | B(F)(F)F.CCOCC
solvent | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
product | ethylsulfanyl-3-(4-hydroxyphenyl)propanoic acid methyl ester | 0.2 g, 74.3% yield | COC(C(CC1=CC=C(C=C1)O)SCC)=O | C12H16O3S
